* C:\Pinebox Effects\Booost\BJT_into_JFET.asc
J1 N002 N006 N010 2N5485
R1 N006 0 1Meg
R2 N010 0 550
R3 9v N002 2.7k
C1 N003 N002 220n
R4 N003 N011 70k
R5 N011 0 30k
C2 N002 N001 200p
R6 N006 N005 1k
Q1 N004 N009 N012 0 2N3904
C3 N005 N004 100n
C4 N008 N007 100n
R7 N012 0 550
R8 9v N004 10k
R9 N009 0 100k
R10 9v N009 1Meg
V1 N007 0 SINE(0 .1 800) AC .05
R11 N007 0 1.8Meg
V2 9v 0 9
R12 N009 N008 22k
C5 0 N013 100µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\Jeremiah Lilland\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\Jeremiah Lilland\Documents\LTspiceXVII\lib\cmp\standard.jft
.tran 15ms
;ac dec 100 20 20k
.backanno
.end
